US07655666B2
2-Acetylamino-4-hydroxymethyl-benzoic acid methyl ester
To a solution of 2-amino-4-hydroxymethyl-benzoic acid methyl ester (7.8 g, 43 mmol) in dioxane (150 mL) was added acetyl chloride (3.04 mL, 1 equiv) and the resulting mixture was stirred at 90° C. for 18 h. The solution was concentrated in vacuo and the resulting oil was sonicated in DCM/hexanes (2/8). The solid was filtered off, washed with hexanes and dried to afford a white solid (7.03 g, 73.2%) (ES-MS: m/z 224.2 [M+H]+, rt 3.75 min).

reactant | 2-amino-4-hydroxymethyl-benzoic acid methyl ester | 43 mmol, 7.8 g | COC(C1=C(C=C(C=C1)CO)N)=O | C9H11NO3
reactant | acetyl chloride | 3.04 mL, 1 equiv | C(C)(=O)Cl | C2H3ClO
solvent | dioxane | 150 mL | O1CCOCC1 | C4H8O2
product | 2-Acetylamino-4-hydroxymethyl-benzoic acid methyl ester | 7.03 g, 73.2% | COC(C1=C(C=C(C=C1)CO)NC(C)=O)=O | C11H13NO4
